US07465825B2
4′-Bromo-4-bromomethyl-biphenyl
A solution of (4′-bromo-biphenyl-4-yl)-methanol, 7.01 g (27.9 mmol) and dibromo-triphenylphosphorane 11.8 g (27.9 mmol) in 150 mL of methylene chloride stirred at room temperature for 2 h. The solution was diluted with 100 mL of water and extracted with 2×200 mL portions of diethyl ether. The organic layers were combined, washed with sat. aq. NaCl, and dried (MgSO4). After the solution was concentrated, the residue was purified through a short plug of silica gel (eluted with 50% EtOAc-Heptane) to afford the desired product in 9.1 g (100%) as a white solid. The material was taken to the next step without further purification.

reactant | (4′-bromo-biphenyl-4-yl)-methanol | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CO | C13H11BrO
reactant | dibromo-triphenylphosphorane | 27.9 mmol, 11.8 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 4′-Bromo-4-bromomethyl-biphenyl | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CBr | C13H10Br2
